US06472386B1
Synthesis of 2-(3,4,5-Trimethoxyphenylethynyl)thiazole-4-carboxylic Acid
Ethyl 2-(3,4,5-trimethoxyphenylethynyl)thiazole-4-carboxylate (200 mg) was suspended in methanol (2 mL), to the suspension a 4 M solution (1 mL) of sodium hydroxide was added, and the mixture was stirred at room temperature for 4 hours. Concentrated hydrochloric acid was added dropwise to the reaction mixture at 0° C. to weakly acidify the reaction mixture. Crystals formed were collected by filtration, washed with water and dried to obtain the title compound.

reactant | Ethyl 2-(3,4,5-trimethoxyphenylethynyl)thiazole-4-carboxylate | 200 mg | COC=1C=C(C=C(C1OC)OC)C#CC=1SC=C(N1)C(=O)OCC | C17H17NO5S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 2 mL | CO | CH4O
product | 2-(3,4,5-Trimethoxyphenylethynyl)thiazole-4-carboxylic Acid | COC=1C=C(C=C(C1OC)OC)C#CC=1SC=C(N1)C(=O)O | C15H13NO5S
